### PR TITLE
[Merged by Bors] - refactor(NumberTheory/Ostrowski): use `AbsoluteValue` instead of `MulRingNorm`

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR
* replaces `MulRingNorm R` by `AbsoluteValue R ℝ` in the material developed in `Mathlib.NumberTheory.Ostrowski`
* does some cleanup (naming convention, remove redundant name parts etc.)
* and also some golfing...

In addition, it
* creates a new folder `Mathlib.Algebra.Order.AbsoluteValue`
* moves `Mathlib.Algebra.Order.AbsoluteValue` to `Mathlib.Algebra.Order.AbsoluteValue.Basic` and `Mathlib.Algebra.Order.EuclideanAbsoluteValue`to `Mathlib.Algebra.Order.AbsoluteValue.Euclidean`
* adds some API for `AbsoluteValue` to match `MulRingNorm` (in `Mathlib.Algebra.Order.AbsoluteValue.Basic`)
* adds a new file `Mathlib.Algebra.Order.AbsoluteValue.Equivalence` with material on equivalence of real-valued absolute values.

See the [discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/MulRingNorm.20vs.2E.20AbsoluteValue/near/491324423) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by MichaelStollBayreuth** [comment]
!bench

**Comment by MichaelStollBayreuth** [comment]
This is +10.6 billion instructions. The increase is very likely caused by un-squeezing the terminal `simp only`s (following the "Morrison doctrine" :smile:). If this results in Mathlib taking 30% longer to build, is this still OK?

**Comment by MichaelStollBayreuth** [comment]
It turns out that the increase from the `simp`s is only < 4%.

**Comment by MichaelStollBayreuth** [comment]
!bench

**Comment by MichaelStollBayreuth** [comment]
<b>General information:</b>
```text
build:                                                 +13.064 * 10⁹ (+0.00883%)
```


<b>1 file got slower by at least 10⁹ instructions:</b>
```text
Mathlib.NumberTheory.Ostrowski:                        +1.8358 * 10⁹ (+5.27%)
```


<b>No file got slower by at least 10%.</b>


<b>No file got faster by at least 10⁹ instructions.</b>


<b>No file got faster by at least 10%.</b>

**Comment by MichaelStollBayreuth** [comment]
+5.278*10⁹ instructions in `Mathlib.Algebra.Order.AbsoluteValue.Basic` compared to the previous `Mathlib.Algebra.Order.AbsoluteValue` and 5.534*10⁹ instructions for the new `Mathlib.Algebra.Order.AbsoluteValue.Equivalence`.

File: Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+positive real number `c` such that `v₁ x ^ c = v₂ x` for all `x : R`.
+-/
+
+namespace AbsoluteValue
+
+variable {R : Type*} [Semiring R]
+
+/-- Two absolute values `f, g` on `R` with values in `ℝ` are *equivalent* if there exists
+a positive real constant `c` such that for all `x : R`, `(f x)^c = g x`. -/
+def equiv (f g : AbsoluteValue R ℝ) : Prop :=
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean:21]:
```suggestion
def Equiv (f g : AbsoluteValue R ℝ) : Prop :=
```
Since this is a type, it should be capitalized.

Comment (jcommelin) [reply Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean]: Also, should this maybe be turned into a `Setoid` instance? To provide nice notation?

File: Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+/-- Equivalence of absolute values is transitive. -/
+lemma equiv_trans {f g k : AbsoluteValue R ℝ} (hfg : equiv f g) (hgk : equiv g k) :
+    equiv f k := by
+  rcases hfg with ⟨c, hcPos, hfg⟩
+  rcases hgk with ⟨d, hdPos, hgk⟩
+  refine ⟨c * d, mul_pos hcPos hdPos, ?_⟩
+  simp [← hgk, ← hfg, Real.rpow_mul (apply_nonneg f _)]
+
+/-- An absolute value is equivalent to the trivial iff it is trivial itself. -/
+lemma eq_trivial_of_equiv_trivial [DecidablePred fun x : R ↦ x = 0] [NoZeroDivisors R]
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean:43]: Should this be a simp lemma?

File: Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+positive real number `c` such that `v₁ x ^ c = v₂ x` for all `x : R`.
+-/
+
+namespace AbsoluteValue
+
+variable {R : Type*} [Semiring R]
+
+/-- Two absolute values `f, g` on `R` with values in `ℝ` are *equivalent* if there exists
+a positive real constant `c` such that for all `x : R`, `(f x)^c = g x`. -/
+def Equiv (f g : AbsoluteValue R ℝ) : Prop :=
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean:21]: Also, should this maybe be turned into a `Setoid` instance? To provide nice notation?

File: Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean:43]: Probably. At least the rhs looks simpler...

File: Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/Order/AbsoluteValue/Equivalence.lean:21]: Good point!

File: Mathlib/NumberTheory/Ostrowski.lean [hunk 4]
```diff
@@ -366,157 +331,151 @@ lemma one_lt_of_not_bounded (notbdd : ¬ ∀ n : ℕ, f n ≤ 1) {n₀ : ℕ} (h
...
   by_cases bdd : ∀ n : ℕ, f n ≤ 1
-  · right
-    exact mulRingNorm_equiv_padic_of_bounded hf_nontriv bdd
-  · left
-    exact mulRingNorm_equiv_standard_of_unbounded bdd
+  · exact .inr <| equiv_padic_of_bounded hf_nontriv bdd
+  · exact .inl <| equiv_real_of_unbounded bdd
+
+/-- The standard absolute value on `ℚ` is not equivalent to any `p`-adic absolute value. -/
+lemma not_real_equiv_padic (p : ℕ) [Fact p.Prime] : ¬ real ≈(padic p) := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Ostrowski.lean:475]:
```suggestion
lemma not_real_equiv_padic (p : ℕ) [Fact p.Prime] : ¬ real ≈ (padic p) := by
```

**Review by jcommelin — COMMENTED** [review]
bors d+
